US08017602B2
Step i) N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(N-hydroxycarbamimidoyl)phenethoxy)propanamide
To 3-(3-cyanophenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide [Example 10, Step i)] (1.5 g) within a 35 mL microwave vial was added potassium carbonate (0.80 g), hydroxylamine hydrochloride (0.402 g), water (2.5 mL) and ethanol (10 mL). The vial was sealed and stirred for 3 days before being heated at 90° C. for a total of 3 h. The reaction was diluted with water, extracted twice with ethyl acetate, which was pooled and washed twice with water, twice with brine, dried over sodium sulphate, filtered and the solvent removed to afford a colourless gum (1.7 g). This material was used in the next step directly.

reactant | 3-(3-cyanophenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide | C(#N)C=1C=C(CCOCCC(=O)N(CC(OC)OC)C2CCCCC2)C=CC1 | C22H32N2O4
reactant | potassium carbonate | 0.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 0.402 g | Cl.NO
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 2.5 mL | O | H2O
product | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(N-hydroxycarbamimidoyl)phenethoxy)propanamide | 1.7 g | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C(NO)=N)=O)CC(OC)OC | C22H35N3O5
